US07115645B2
a) Ethyl-4-chlorobenzimidate hydrochloride
10 g of 4-chlorobenzonitrile was suspended in 12 ml of ethanol and dissolved by adding diethyl ether. While being cooled in an ice bath, it was saturated with HCl gas. After 72 hours, precipitated product was suctioned out. The product was washed with diethyl ether.

reactant | 4-chlorobenzonitrile | 10 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | HCl | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | Ethyl-4-chlorobenzimidate hydrochloride | Cl.C(C)OC(C1=CC=C(C=C1)Cl)=N | InChI=1S/C9H10ClNO.ClH/c1-2-12-9(11)7-3-5-8(10)6-4-7;/h3-6,11H,2H2,1H3;1H
